US04870074
Preparation of 2-cyclopropylamino-5-sulfamoylbenzoic acid
The title compound is prepared from 2-fluoro-5-sulfamoylbenzoic acid and cyclopropylamine in substantially the same manner as in Reference Example 87.

reactant | 2-fluoro-5-sulfamoylbenzoic acid | FC1=C(C(=O)O)C=C(C=C1)S(N)(=O)=O | C7H6FNO4S
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | 2-cyclopropylamino-5-sulfamoylbenzoic acid | C1(CC1)NC1=C(C(=O)O)C=C(C=C1)S(N)(=O)=O | C10H12N2O4S
